US07173028B2
5-isopropoxyuracil
60.8 g of 4-hydroxy-5-isopropoxy-2-mercapto-pyrimidine are refluxed together with 60 g of chloroacetic acid in 1.2 litres of water for 2.5 hours, during which time the precipitate dissolves completely. 200 ml of conc. hydrochloric acid are added and the mixture is refluxed for a further 7 hours. Then the reaction mixture is evaporated down to 500 ml, whereupon the desired product is obtained as a precipitate, filtered off and dried overnight at 70° C. (28.6 g; 52%).

reactant | 4-hydroxy-5-isopropoxy-2-mercapto-pyrimidine | 60.8 g | OC1=NC(=NC=C1OC(C)C)S | C7H10N2O2S
reactant | chloroacetic acid | 60 g | ClCC(=O)O | C2H3ClO2
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | water | 1.2 litres | O | H2O
product | 5-isopropoxyuracil | C(C)(C)OC=1C(NC(NC1)=O)=O | C7H10N2O3
